US07314935B2
4. rac-10-Acetyl-2,3-dimethyl-9-phenyl-9,10-dihydroimidazo[1,2-h][1,7]naphthyridine (racemic)
6.0 g (17.9 mmol) of rel-(7S,9S)-10-acetyl-7-hydroxy-2,3-dimethyl-9-phenyl-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridine (racemic) are dissolved in 100 ml of dichloromethane and 20 ml of triethylamine. A solution of 2.9 g (25 mmol) of methanesulphonyl chloride in 5 ml of dichloromethane is then added dropwise with ice cooling within 30 min. After 2 h, hydrolysis is effected using water and extraction using dichloromethane. The organic phase is dried over magnesium sulphate and evaporated. The residue is crystallized using diethyl ether. 4.8 g (85%) of the title compound are isolated as a pale brown solid (m.p. 170° C.).

reactant | rel-(7S,9S)-10-acetyl-7-hydroxy-2,3-dimethyl-9-phenyl-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridine | 17.9 mmol, 6.0 g | C(C)(=O)N1[C@@H](C[C@@H](C=2C=CN3C(C12)=NC(=C3C)C)O)C3=CC=CC=C3 | C20H21N3O2
reactant | methanesulphonyl chloride | 25 mmol, 2.9 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | rac-10-Acetyl-2,3-dimethyl-9-phenyl-9,10-dihydroimidazo[1,2-h][1,7]naphthyridine | 4.8 g, 85% | C(C)(=O)N1C(C=CC=2C=CN3C(C12)=NC(=C3C)C)C3=CC=CC=C3 | C20H19N3O
